US09120773B2
In a stream of argon, 1.20 g (4.87 mmol) of 1-pyreneboronic acid, 1.50 g (3.03 mmol) of 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine and 57 mg (0.081 mmol) of dichlorobis-(triphenylphosphine)palladium were suspended in 135 mL of tetrahydrofuran, and the temperature of the obtained suspension was elevated to 70° C. 3.81 mL (15.2 mmol) of an aqueous 4N NaOH solution was gradually added dropwise to the suspension, and the obtained mixture was distilled under reflux for 2 hours. Then, 29 mg (0.041 mmol) of dichlorobis(triphenylphosphine)palladium was added, followed by distillation under reflux for 2 hours. Further, 0.20 g (0.81 mmol) of 1-pyreneboronic acid was added, followed by distillation under reflux for 2 hours. The resultant reaction mixture was left to stand to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was recrystallized from o-xylene. The recrystallization by o-xylene was repeated three times in total to give 1.14 g of the target 2-[3,5-di(1-pyrenyl)phenyl]-4,6-di-p-tolyl-1,3,5-triazine as grayish white solid (yield: 51%).

reactant | 1-pyreneboronic acid | 4.87 mmol, 1.20 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | 2-(3,5-dibromophenyl)-4,6-di-p-tolyl-1,3,5-triazine | 3.03 mmol, 1.50 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C23H17Br2N3
reactant | NaOH | 4N | [OH-].[Na+]
reactant | 1-pyreneboronic acid | 0.81 mmol, 0.20 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
solvent | tetrahydrofuran | 135 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis-(triphenylphosphine)palladium | 0.081 mmol, 57 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium | 0.041 mmol, 29 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[3,5-di(1-pyrenyl)phenyl]-4,6-di-p-tolyl-1,3,5-triazine | yield: 51% | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=3C=C(C=C(C3)C3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21)C2=NC(=NC(=N2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C | C55H35N3
